US07166595B2
b) N-[(R)-1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzamide
To N-[(R)-1-(1-benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide (50 mg, 0.123 Mmol) in DMF was added sodium hydride (5 mg, 0.147 Mmol). The reaction stirred for 15 at RT then 1-(2-chloro-ethyl)-pyrrolidine (20 mg, 0.135 mmol) (Tilford et al.; J. Am. Chem. Soc.; 70; 1948; 4001). was added. The reaction was stirred at RT for 24 h, quenched with water and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (1×20 ml), brine (1×20 mL), dried (Na2SO4), filtered, and evaporated to yield the title compound (30 mg, 49%) as a colorless oil: MS (ES) m/e 501.4 (M+H)+.

reactant | N-[(R)-1-(1-benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide | 0.123 Mmol, 50 mg | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)[C@@H](C(C)C)NC(C1=CC=C(C=C1)C)=O | C25H29N3O2
reactant | sodium hydride | 0.147 Mmol, 5 mg | [H-].[Na+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine | 0.135 mmol, 20 mg | ClCCN1CCCC1 | C6H12ClN
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(R)-1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzamide | 30 mg, 49% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)[C@@H](C(C)C)N(C(C1=CC=C(C=C1)C)=O)CCN1CCCC1 | C31H40N4O2
